US04623660
2,3-Dihydropyran (4.6 g.) and a few crystals of toluene-p-sulphonic acid were added to a solution of 4-hydroxy-α-methyldesoxybenzoin (11.3 g.) in chloroform (100 ml.). The resulting solution was heated under reflux for 5 mins., cooled and washed with 5% w/v aqueous sodium bicarbonate solution. The chloroform solution was then dried and evaporated, and the residue crystallised from acetone to give 4-(2-tetrahydropyranyloxy)-α-methyldesoxybenzoin (5.93 g.), m.p. 94°-96° C.

reactant | 2,3-Dihydropyran | 4.6 g | O1CCCC=C1 | C5H8O
reactant | toluene-p-sulphonic acid | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
reactant | 4-hydroxy-α-methyldesoxybenzoin | 11.3 g | OC1=CC=C(C=C1)C(=O)C(C1=CC=CC=C1)C | C15H14O2
solvent | chloroform | 100 ml | C(Cl)(Cl)Cl | CHCl3
product | 4-(2-tetrahydropyranyloxy)-α-methyldesoxybenzoin | 5.93 g | O1C(CCCC1)OC1=CC=C(C=C1)C(=O)C(C1=CC=CC=C1)C | C20H22O3
